US04385059
By a process analogous to Example 2, methyl-3-bromo-3-(4-chlorobenzoyl)propionate and 4-hydroxy-thiobenzamide are reacted to give methyl 4-(4-chlorophenyl)-2-(4-hydroxyphenyl)thiazole-5-acetate. This compound is hydrolysed using 2 N sodium hydroxide to give the title compound.

reactant | methyl-3-bromo-3-(4-chlorobenzoyl)propionate | COC(CC(C(C1=CC=C(C=C1)Cl)=O)Br)=O | C11H10BrClO3
reactant | 4-hydroxy-thiobenzamide | OC1=CC=C(C(=S)N)C=C1 | C7H7NOS
product | methyl 4-(4-chlorophenyl)-2-(4-hydroxyphenyl)thiazole-5-acetate | ClC1=CC=C(C=C1)C=1N=C(SC1CC(=O)OC)C1=CC=C(C=C1)O | C18H14ClNO3S
